* C:\Users\Mauricio\Documents\GitHub\Sintesis_de_Redes_Activas\Lab2\tp2_a.asc
Rf Vo N001 15k tol=10
Vin_1 V1 0 PULSE(-300m 300m 0 1p 1p 5m 10m) AC 1
Vcc Vcc 0 10
Vss Vss 0 -10
Vin_2 V2 0 SINE(0 0 1k) AC 0
XU3 0 N001 Vcc Vss Vo LM324
R1 N001 N002 500 tol=10
R2 N001 N003 500
Ri_2 V2 N003 50
Ri V1 N002 50 tol=10
Vos Vos 0 2m
.tran .05
.lib E:\LtSpice_components\LM324.ti.lib
.backanno
.end
