* C:\Users\Mauricio\Documents\GitHub\Sintesis_de_Redes_Activas\Lab1\Circuito4\Circuito4.asc
R1 N001 Vi 10k
R2 0 N001 10k
R3 Vref N002 2k
R4 N002 Vo 10k
XU1 N002 N001 V+ V- Vo LM324
Vcc V+ 0 10
Vss V- 0 0
Vin Vi 0 SINE(0 10 1k)
Vref Vref 0 2
.tran 0.0025
.lib E:\LtSpice_components\LM324.ti.lib
.backanno
.end
